US07199147B2
To trans-2-{2,2-dimethyl-5-[(4-methyl-1H-indazol-5-yl)oxy]cyclohexyl}-1H-isoindole-1,3(2H)-dione was added 30%-methylamine/ethanol (10 ml) at room temperature, and the resulting mixture was refluxed for 8 hours. The reaction solution was concentrated under reduced pressure at room temperature and the resulting residue was purified by a silica gel column chromatography (eluent: chloroform→chloroform/methanol/(1%-aqueous ammonia)=20/1) to obtain trans-2,2-dimethyl-5-[(4-methyl-1H-indazol-5-yl)oxy]cyclohexanamine (143 mg, 60%, containing about 10% of cis isomer).

reactant | trans-2-{2,2-dimethyl-5-[(4-methyl-1H-indazol-5-yl)oxy]cyclohexyl}-1H-isoindole-1,3(2H)-dione | CC1([C@H](C[C@@H](CC1)OC=1C(=C2C=NNC2=CC1)C)N1C(C2=CC=CC=C2C1=O)=O)C | C24H25N3O3
solvent | methylamine ethanol | 10 ml | CN.C(C)O
product | trans-2,2-dimethyl-5-[(4-methyl-1H-indazol-5-yl)oxy]cyclohexanamine | 143 mg | CC1([C@H](C[C@@H](CC1)OC=1C(=C2C=NNC2=CC1)C)N)C | C16H23N3O
